US06107329
(2S)-[(5-Chloro-1-H-indole-2-carbonyl)-amino]-3-phenyl-propionic acid methyl ester
L-Phenylalanine methyl ester hydrochloride (77.0 mmol) and 5-chloro-1H-indole-2-carboxylic acid (77 mmol) were coupled according to procedure A (0-25° C.) and the product purified by chromatography on silica gel in 10 and 20% ethyl acetate-hexanes giving the title substance as an off-white solid (22.12 g, 81%): mp 156-157° C.; HPLC (60/40) 9.5 minutes (98%); PBMS 357/359 (MH+, 100%).

reactant | L-Phenylalanine methyl ester hydrochloride | 77.0 mmol | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | 5-chloro-1H-indole-2-carboxylic acid | 77 mmol | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
product | (2S)-[(5-Chloro-1-H-indole-2-carbonyl)-amino]-3-phenyl-propionic acid methyl ester | COC([C@H](CC1=CC=CC=C1)NC(=O)C=1NC2=CC=C(C=C2C1)Cl)=O | C19H17ClN2O3
